US08124610B2
4-bromo-2-cyano-N-(thiazol-2-yl)benzenesulfonamide
To 2-AMINOTHIAZOLE (0.21 g, 0.0021 mol) in Pyridine (1 mL, 0.01 mol) was added portion-wise the crude 4-Bromo-2-cyano-benzenesulfonyl chloride (0.40 g, 0.0014 mol). The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, diluted with Ethyl acetate, washed with 1.0 N HCl, H2O and brine, dried with anhydrous sodium sulfate, filtered and concentrated to give the crude product, which was purified on ISCO (25% to 100% Ethyl acetate in hexanes). 35 mg of the product was obtained as a light yellow solid.

reactant | 2-AMINOTHIAZOLE | 0.0021 mol, 0.21 g | NC=1SC=CN1 | C3H4N2S
reactant | Pyridine | 0.01 mol, 1 mL | N1=CC=CC=C1 | C5H5N
reactant | 4-Bromo-2-cyano-benzenesulfonyl chloride | 0.0014 mol, 0.40 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)C#N | C7H3BrClNO2S
product | 4-bromo-2-cyano-N-(thiazol-2-yl)benzenesulfonamide | 35 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)C#N | C10H6BrN3O2S2
